// Generated for: spectre
// Generated on: Sep 22 20:36:32 2021
// Design library name: MyOwnECE6720
// Design cell name: Common_Gate
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: MyOwnECE6720
// Cell name: Common_Gate
// View name: schematic
V1 (net4 0) vsource dc=1.8 type=dc
V0 (net1 0) vsource dc=900m type=dc
M0 (out net1 net2 0) nmos180 w=15u l=0.18u
R0 (net4 out) resistor r=4K
C0 (out 0) capacitor c=200f
I2 (net2 0) isource dc=200u type=dc
I1 (net2 0) isource mag=1 type=dc
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
