// Generated for: spectre
// Generated on: Nov 24 08:18:01 2021
// Design library name: MyOwnECE6720
// Design cell name: HW10
// Design view name: schematic
simulator lang=spectre
global 0
parameters Vds=1.8 Vgs=0
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: MyOwnECE6720
// Cell name: HW10
// View name: schematic
M0 (net3 net1 0 0) nmos180 w=10u l=0.18u
V1 (net4 0) vsource dc=Vds type=dc
V0 (net1 0) vsource dc=Vgs type=dc
IPRB0 (net4 net3) iprobe
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=Vgs start=0 stop=1.8 step=0.2 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save IPRB0:in 
saveOptions options save=allpub currents=all
