// Generated for: spectre
// Generated on: Nov  3 20:58:05 2021
// Design library name: MyOwnECE6720
// Design cell name: HW7
// Design view name: schematic
simulator lang=spectre
global 0
parameters V0=1.8
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: MyOwnECE6720
// Cell name: HW7
// View name: schematic
M0 (net1 net2 0 0) nmos180 w=150u l=1u
R3 (net2 net3) resistor r=10K
R2 (net5 net3) resistor r=10K
R1 (net3 net4) resistor r=10K
R0 (net5 net1) resistor r=6.5K
I2 (net2 0) isource mag=1 type=dc
I0 (net5 net1) isource dc=300u type=dc
IPRB0 (net4 net1) iprobe
V0 (net5 0) vsource dc=V0 type=dc
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
stb stb start=1k stop=10G dec=100 probe=IPRB0 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
