// Generated for: spectre
// Generated on: Nov 10 20:19:11 2021
// Design library name: MyOwnECE6720
// Design cell name: HW9
// Design view name: schematic
simulator lang=spectre
global 0
parameters R2=12K R1=10K
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: ECE6720
// Cell name: HW9_A1
// View name: schematic
subckt HW9_A1 Vm Vout Vp
    Cinternal (voutfilt 0) capacitor c=20p
    Eout (Vout 0 voutfilt 0) vcvs gain=1
    Ein (voutraw 0 Vp Vm) vcvs gain=500
    Rinternal (voutraw voutfilt) resistor r=1/2/M_PI/20p/500e6 isnoisy=no
ends HW9_A1
// End of subcircuit definition.

// Library name: MyOwnECE6720
// Cell name: HW9
// View name: schematic
I0 (net5 net4 net6) HW9_A1
IPRB0 (net4 net3) iprobe
M0 (net2 net3 net1 0) nmos180 w=27.5u l=0.4u
R2 (0 net5) resistor r=R2
R1 (net5 net1) resistor r=R1
R0 (net1 0) resistor r=2.2K
V1 (net6 0) vsource dc=518m type=dc
V0 (net2 0) vsource dc=1.8 type=dc
C1 (0 net1) capacitor c=1n
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
stb stb start=1K stop=10G dec=100 probe=IPRB0 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save IPRB0:in IPRB0:in 
saveOptions options save=allpub
