// Generated for: spectre
// Generated on: Dec  3 10:05:24 2021
// Design library name: MyOwnECE6720
// Design cell name: Project_Top_TB
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters RS=3.2K RL1=2.4K RL3=11.7k W1=12u W2=6u W3=6u Ccomp=2p \
    IBIAS2=100u Cpar=5p
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: ECE6720
// Cell name: D_to_SE_OTA_model
// View name: schematic
subckt D_to_SE_OTA_model VDD vim vip vout
parameters ID
    Cinm (vim 0) capacitor c=10*ID/2/M_PI/2e9
    Cinp (vip 0) capacitor c=10*ID/2/M_PI/2e9
    Ro (vout 0) resistor r=10/ID isnoisy=no
    Rnoise (net6 0) resistor r=1/4/0.67/10/ID
    Vn (net6 0) vsource dc=0 type=dc
    Gm (0 vout vip vim) vccs gm=10*ID
    Fnoise (vout 0) cccs gain=1.0 probe=Vn
    Ibias (VDD 0) isource dc=2*ID type=dc
ends D_to_SE_OTA_model
// End of subcircuit definition.

// Library name: MyOwnECE6720
// Cell name: Project_Top_TB
// View name: schematic
Ccomp (Vgate1 0) capacitor c=Ccomp 
CPAR (in 0) capacitor c=Cpar
CL (Vout 0) capacitor c=50f
VDD (vdd! 0) vsource dc=1.8 type=dc
VBIAS (net9 0) vsource dc=600m type=dc
Iin (0 in) isource dc=0 mag=1 type=sine
M3 (Vout Vo2 0 0) nmos180 w=W3 l=0.18u
M2 (vdd! Vo1 Vo2 0) nmos180 w=W2 l=0.18u
M1 (Vo1 net11 in 0) nmos180 w=W1 l=0.18u
RL1 (vdd! Vo1) resistor r=RL1
RL3 (vdd! Vout) resistor r=RL3
RS (in 0) resistor r=RS
A1 (vdd! in net9 Vgate1) D_to_SE_OTA_model ID=200u
IBIAS2 (Vo2 0) isource dc=IBIAS2 type=dc
IPRB0 (net11 Vgate1) iprobe
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=1 stop=100G dec=200 annotate=status 
noise ( Vout 0 ) noise start=1 stop=100G dec=200 annotate=status 
stb stb start=1 stop=5G dec=100 probe=IPRB0 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
