// Generated for: spectre
// Generated on: Sep 20 12:09:37 2021
// Design library name: MyOwnECE6720
// Design cell name: RC_LPF
// Design view name: schematic
simulator lang=spectre
global 0
parameters vdc=1
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: MyOwnECE6720
// Cell name: RC_LPF
// View name: schematic
R0 (in out) resistor r=1K
C0 (out 0) capacitor c=1p
V0 (in 0) vsource dc=vdc mag=1 type=dc
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=1 stop=100G dec=50 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
