// Generated for: spectre
// Generated on: Nov 24 14:46:32 2021
// Design library name: MyOwnECE6720
// Design cell name: diff
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters AMP=1 FREQUENCY=1 IBIAS=1.33m
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: ECE6720
// Cell name: ideal_balun
// View name: schematic
subckt ideal_balun vcm vdm vm vp
    K3 (vm vcm 0 vdm) transformer n1=1 n2=2
    K0 (vp vcm vdm 0) transformer n1=1 n2=2
ends ideal_balun
// End of subcircuit definition.

// Library name: MyOwnECE6720
// Cell name: diff
// View name: schematic
R3 (net2 vip) resistor r=10K
R2 (net3 vim) resistor r=10K
M6 (vdd! vbias voutp vdd!) pmos180 w=644u l=0.28u
M5 (voutm vbias vdd! vdd!) pmos180 w=644u l=0.28u
M4 (vbias vbias vdd! vdd!) pmos180 w=644u l=0.28u
M1 (voutp vim virt_gnd 0) nmos180 w=644u l=0.28u
M0 (voutm vip virt_gnd 0) nmos180 w=158u l=0.24u
I16 (vbias 0) isource dc=IBIAS/2 type=dc
I1 (virt_gnd 0) isource dc=IBIAS type=dc
V3 (net1 0) vsource dc=1.1 type=dc
V1 (vicm 0) vsource dc=1 type=dc
V0 (vdd! 0) vsource dc=1.8 type=dc
I5 (vicm vidm net3 net2) ideal_balun
I4 (vocm vodm voutm voutp) ideal_balun
V2 (vidm 0) vsource mag=1 type=sine ampl=AMP freq=FREQUENCY
G0 (vocm net1 virt_gnd 0) vccs gm=1.0
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
