// Generated for: spectre
// Generated on: Oct  6 08:25:39 2021
// Design library name: MyOwnECE6720
// Design cell name: diffpair
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters _EXPR_1=1e-06 AMP=1 FREQUENCY=10M
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: ECE6720
// Cell name: ideal_balun
// View name: schematic
subckt ideal_balun vcm vdm vm vp
    K3 (vm vcm 0 vdm) transformer n1=1 n2=2
    K0 (vp vcm vdm 0) transformer n1=1 n2=2
ends ideal_balun
// End of subcircuit definition.

// Library name: MyOwnECE6720
// Cell name: diffpair
// View name: schematic
R3 (net2 vip) resistor r=10K
R2 (net3 vim) resistor r=10K
R1 (vdd! voutp) resistor r=1K
R0 (vdd! voutm) resistor r=1K
C1 (0 voutm) capacitor c=50f
C0 (0 voutp) capacitor c=50f
M1 (voutp vim net1 0) nmos180 w=12.35u l=0.18u
M0 (voutm vip net1 0) nmos180 w=12.35u l=0.18u
I1 (net1 0) isource dc=1.28m type=dc
V1 (vicm 0) vsource dc=1 type=dc
V0 (vdd! 0) vsource dc=1.8 type=dc
I5 (vicm vidm net3 net2) ideal_balun
I4 (vocm vodm voutm voutp) ideal_balun
V2 (vidm 0) vsource mag=1 type=sine ampl=AMP freq=FREQUENCY
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=_EXPR_1 errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
