// Generated for: spectre
// Generated on: Sep 20 11:45:42 2021
// Design library name: ECE6720
// Design cell name: example_cs
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/home/AMSICtools/models/Generic180nm.mod"

// Library name: ECE6720
// Cell name: example_cs
// View name: schematic
VDD (vdd! 0) vsource dc=1.8 type=dc
RL (vdd! out) resistor r=2K
VIN (in 0) vsource dc=680m mag=1 phase=0 type=sine sinedc=680m ampl=100m \
        sinephase=0 freq=1K fundname="fund"
CL (out 0) capacitor c=1p
M1 (out in 0 0) nmos180 w=10u l=0.18u
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=10e3 stop=1e9 annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=VIN param=dc start=0 stop=1.8 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save M1:cgd M1:cgs M1:cgb M1:cdb 
saveOptions options save=allpub
